US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-fluoro-piperidine-3-carboxylic acid ethyl ester
To a cold (−78° C.) solution of 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid ethyl ester (300 mg, 0.98 mmol) was added 2 M LDA (0.59 ml, 1.08 mmol). The mixture was stirred for 15 minutes. N-fluorobenzenesulfonimide (341 mg, 1.08 mmol) was added and the mixture was stirred for 20 min. The reaction was quenched with sat. NH4Cl solution. The solvent was evaporated and the remaining aqueous mixture was extracted two times with EtOAc. The organic layers were pooled, dried, concentrated and absorbed on silica. Flash chromatography (heptane/EtOAc) gave 160 of the title compound as a mixture of diastereomers.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid ethyl ester | 0.98 mmol, 300 mg | C(C)OC(=O)C1CN(CCC1)CC1COC2=C(O1)C=CC=C2 | C17H23NO4
reactant | LDA | 1.08 mmol, 2 M, 0.59 ml | [Li+].CC(C)[N-]C(C)C
reactant | N-fluorobenzenesulfonimide | 1.08 mmol, 341 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-fluoro-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)F | C17H22FNO4
